US07060827B2
In like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-5-fluoro-N-(3-hydroxyphenyl)-4-pyrimidineamine was reacted with 1-aminopyrrole to provide 5-fluoro-N4-(3-hydroxyphenyl)-N2-(1H-pyrrol-1-yl)-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 9.95 (s, 1H), 9.22 (s, 1H), 9.19 (s, 1H), 7.99 (d, 1H, J=3.5 Hz), 7.22 (d, 1H, J=8.2 Hz), 6.94 (br s, 1H), 6.89 (t, 1H, J=8.2 Hz), 6.70 (dd, 2H, J=2.3 and 4.7 Hz), 6.38 (d, 1H, J=8.2 Hz), 5.99 (t, 2H, J=2.3 and 4.7 Hz). LCMS: ret. time: 18.23 min.; purity: 94%; MS (m/e): 286 (MH+).

reactant | 2-chloro-5-fluoro-N-(3-hydroxyphenyl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F | C10H7ClFN3O
reactant | 1-aminopyrrole | NN1C=CC=C1 | C4H6N2
product | 5-fluoro-N4-(3-hydroxyphenyl)-N2-(1H-pyrrol-1-yl)-2,4-pyrimidinediamine | FC=1C(=NC(=NC1)NN1C=CC=C1)NC1=CC(=CC=C1)O | C14H12FN5O
